US09216911B2
N-cyclohexylpyrrolidine prepared in Example 1 (1 molar equivalent) was dissolved in methanol to 0.5M concentration in a three neck reaction flask equipped with a mechanical stirrer and reflux condenser. To the methanolic solution of cyclohexylpyrrolidine, 2 molar equivalents of methyl iodide were added, and the resulting mixture was left to stir overnight. The mixture was heated to reflux and left to stir at reflux for 4 hours. The reaction was cooled down and left to stir overnight. The reaction was complete. The reaction mixture was concentrated on a rotary evaporator. The resulting tan-colored solids were dissolved in isopropyl alcohol and then precipitated out from solution by adding diethyl ether. The precipitate was filtered out and dried on a rotary evaporator at reduced pressure and in hot water bath at 80° C. to give the desired N-methyl-N-cyclohexylpyrrolidinium iodide in 86% yield. N-Methyl-N-cyclohexylpyrrolidinium iodide was converted to the hydroxide by ion-exchanging the iodide ion with hydroxide ion. In a polyethylene plastic bottle, N-methyl-N-cyclohexylpyrrolidinium iodide salt was dissolved in deionized water (1 mmol salt/10 ml H2O). Then Bio-Rad AG 1-X8 resin (1.1 g resin/mmol salt) was added and the slurry-like mixture was gently stirred overnight. The exchange solution was then filtered and a small aliquot was titrated with 0.1N HCl to give 92% yield of the N-methyl-N-cyclohexylpyrrolidinium hydroxide.

reactant | hydroxide | [OH-]
reactant | water | 1 mmol, 10 ml | O | H2O
reactant | H2O | 10 ml | O | H2O
reactant | N-methyl-N-cyclohexylpyrrolidinium iodide salt | [I-].C[N+]1(CCCC1)C1CCCCC1
solvent | polyethylene | C(C[*:2])[*:1]
product | N-methyl-N-cyclohexylpyrrolidinium hydroxide | 92% yield | [OH-].C[N+]1(CCCC1)C1CCCCC1 | InChI=1S/C11H22N.H2O/c1-12(9-5-6-10-12)11-7-3-2-4-8-11;/h11H,2-10H2,1H3;1H2/q+1;/p-1
